* C:\dev\paddle\kicad\amp02.asc
R4 N006 N007 5k
V1 N009 0 3.3
R6 +V N008 1k
R7 N008 0 1k
R8 +V N003 1.00k
R9 N003 0 1k
XU1 N007 N004 N005 opamp1
XU4 N010 N008 N010 opamp1
V2 +V N009 PULSE(0 10mV 0 100n 100n 10m 20m)
R12 +V N001 9k
R13 N001 0 11k
R14 N002 N001 1Meg
C1 N006 0 1µF
R1 N006 N005 10
C2 N005 N007 0.01µF
V3 N004 N003 SINE(0 10mV 300)
R2 N012 N013 5k
XU2 N013 N010 N011 opamp1
C3 N012 0 1µF
R3 N012 N011 10
C4 N011 N013 0.01µF
.SUBCKT OPAMP1     2   1     6
RIN             1               2               10MEG
EGAIN 3 0   1 2    1000K
RP1 3 4 1K
CP1             4               0               1.5915UF
EBUFFER         5 0             4 0             1
ROUT            5               6               10
.ENDS
.OPTIONS numdgt=7
.tran 0 0.1 0 1us
.backanno
.end
